US07825253B2
N5-Benzo[1,3]dioxol-4-ylmethyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=388.4 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 2,3-(methylenedioxy)benzaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2,3-(methylenedioxy)benzaldehyde | C1OC2=C(C=O)C=CC=C2O1 | C8H6O3
product | N5-Benzo[1,3]dioxol-4-ylmethyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | O1COC2=C1C=CC=C2CNC=2C=1C=CC(=NC1C=CC2)NCC=2OC(=CC2)C | C23H21N3O3
